US07687490B2
c) Sodium (1R,5S,6S)-2-[[(Z)-2-[4-(2-hydroxyethoxy)methylthiazol-5-yl]ethen-1-yl]thio]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-[4-(2-hydroxyethoxy)methylthiazol-5-yl]ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxy ethyl)-1-carbapen-2-em-3-carboxylate (3.82 g) was dissolved in 170 ml of THF and 70 ml of water. 1 N aqueous hydrochloric acid (2.8 ml) was added to the solution, and the mixture was stirred at room temperature for 50 min. The reaction solution was adjusted to pH 3.0 by the addition of saturated sodium bicarbonate water. A 1/15 M sodium phosphate buffer solution (pH 6.8) (170 ml) and 3.10 g of 10% Pd—C (hydrous, water content 53%) were added thereto, and the mixture was stirred under a hydrogen atmosphere for 1.5 hr. 10% Pd—C was removed by filtration and was washed with water, and the filtrate was adjusted to pH 7.0 by the addition of saturated sodium bicarbonate water, followed by washing with 300 ml of ethyl acetate. The aqueous layer was concentrated to about 20 ml, and the residue was purified by column chromatography on Cosmosil 40C18-PREP (5% methanol-water) to give 1.91 g of the title compound.

reactant | 4-Nitrobenzyl (1R,5S,6S)-2-[[(Z)-2-[4-(2-hydroxyethoxy)methylthiazol-5-yl]ethen-1-yl]thio]-1-methyl-6-((1R)-1-triethylsilyloxy ethyl)-1-carbapen-2-em-3-carboxylate | 3.82 g | OCCOCC=1N=CSC1\C=C/SC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O[Si](CC)(CC)CC)=O)C | C31H41N3O8S2Si
reactant | hydrochloric acid | 1 N, 2.8 ml | Cl | ClH
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
reactant | sodium phosphate | 15 M, 170 ml, pH 6.8 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
solvent | THF | 170 ml | C1CCOC1 | C4H8O
solvent | water | 70 ml | O | H2O
catalyst | Pd—C | 3.10 g | [Pd] | Pd
product | Sodium (1R,5S,6S)-2-[[(Z)-2-[4-(2-hydroxyethoxy)methylthiazol-5-yl]ethen-1-yl]thio]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 1.91 g | OCCOCC=1N=CSC1\C=C/SC=1[C@@H]([C@H]2N(C1C(=O)[O-])C([C@@H]2[C@@H](C)O)=O)C.[Na+] | InChI=1S/C18H22N2O6S2.Na/c1-9-14-13(10(2)22)17(23)20(14)15(18(24)25)16(9)27-6-3-12-11(19-8-28-12)7-26-5-4-21;/h3,6,8-10,13-14,21-22H,4-5,7H2,1-2H3,(H,24,25);/q;+1/p-1/b6-3-;/t9-,10-,13-,14-;/m1./s1
